US06888020B2
100 ml of a sodium salt solution of dithiobenzoic acid (0.15 mol) were added by drops to an 80 not iodine aqueous solution (0.1 mol) over 1 hour. After completing the reaction, the obtained product was dissolved in an organic solvent of tetrahydrofurane (THF) and washed with distillated water twice and dried over magnesium sulfate (MgSO4). The organic solvent was removed by vacuum evaporation. It was then recrystalized in ethanol to obtain dithiobenzoyl disulfide.

reactant | sodium | 100 ml | [Na] | Na
reactant | dithiobenzoic acid | 0.15 mol | C(C1=CC=CC=C1)(=S)S | C7H6S2
reactant | iodine aqueous | 0.1 mol | [K+].I[I-]I
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | dithiobenzoyl disulfide | C(C1=CC=CC=C1)(=S)SSC(C1=CC=CC=C1)=S | C14H10S4
